US06562828B1
1-(Pyridin-4-yl)-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidine-4-carboxylic Acid Ethyl Ester
To a solution of 7-[4-ethoxycarbonyl-1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (10.87 g) in chloroform (50 ml) was dropwise added trifluoroacetic acid (30 ml) with ice-cooling, and the mixture was stirred at room temperature for 30 min. The solvent was evaporated and to the obtained residue was added aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The residue was dried under reduced pressure to give the title compound (8.29 g).

reactant | 7-[4-ethoxycarbonyl-1-(pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 10.87 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC=NC=C1)C(=O)OCC | C28H37N3O5
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(Pyridin-4-yl)-4-(1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)piperidine-4-carboxylic Acid Ethyl Ester | 8.29 g | C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)COC1=CC=C2CCNCC2=C1 | C23H29N3O3
